US06531503B1
5-Bromobenzofuran-2-carboxylic Acid Diethylamide
1.3 g. of 5-bromobenzofuran-2-carbonyl chloride, 1 mL [sic] of ethyldiisopropylamine and 30 mL [sic] of toluene are mixed and 0.62 ml of diethylamine is added to the brown-coloured solution with stirring. A precipitate is formed with a slightly exothermic reaction. After 5 minutes, the mixture was treated with 30 ml of completely deionized water and the phases were separated. The organic phase was washed with 1.) 20 ml of iN HCl 2.) 20 ml of iN NaOH 3.) 20 ml of water and then with 20 ml of saturated NaCl solution and then freed of solvent components in vacuo. After chromatography on silica gel the residual, yellowish oil forms in the eluent MtB ether/heptane 2:1 [sic]. Final weight: 1.3 g of colourless crystals [sic] (yield: 88%), m.p. 79-81°.

reactant | 5-bromobenzofuran-2-carbonyl chloride | BrC=1C=CC2=C(C=C(O2)C(=O)Cl)C1 | C9H4BrClO2
reactant | ethyldiisopropylamine | 1 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
reactant | diethylamine | 0.62 ml | C(C)NCC | C4H11N
solvent | water | O | H2O
product | 5-Bromobenzofuran-2-carboxylic Acid Diethylamide | 1.3 g, yield: 88% | C(C)N(C(=O)C=1OC2=C(C1)C=C(C=C2)Br)CC | C13H14BrNO2
